US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N,N-diethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid with diethylamine

reactant | [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=NC(=CC1)C)CC(=O)O | C18H22N2O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N,N-diethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C=1C=NC(=CC1)C | C22H31N3O3S
